US05330985
2.1. Methyl 2-[[2-[4-(2,5-dimethoxyphenyl)piperazin-1-yl]ethyl]amino]pyrimidine-4-carboxylate
8.76 g (22.66 mmol) of 2-[[2-[4-(2,5-dimethoxyphenyl) piperazin-1-yl]ethyl]amino]pyrimidine-4-carboxamide are introduced into 650 ml of methanol in a 1 l round-bottomed flask, a stream of gaseous hydrochloric acid is passed through for a few minutes and the mixture is then heated at the reflux temperature of the methanol for 5 h. The solventis evaporated under reduced pressure, 300 ml of dichloromethane are added to the residue and the mixture is then basified with a saturated aqueous sodium hydrogencarbonate solution. The organic phase is dried over sodium sulphate, filtered and the solvent is then evaporated under reduced pressure. After purification by chromatography on a silica gel column (eluent: 100/0 to 90/10 dichloromethane/methanol mixture) and then by recrystallisation from cyclohexane, 6.93 g (17.26 mmol) of ester are isolated.

reactant | 2-[[2-[4-(2,5-dimethoxyphenyl) piperazin-1-yl]ethyl]amino]pyrimidine-4-carboxamide | 22.66 mmol, 8.76 g | COC1=C(C=C(C=C1)OC)N1CCN(CC1)CCNC1=NC=CC(=N1)C(=O)N | C19H26N6O3
reactant | methanol | 650 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | cyclohexane | C1CCCCC1 | C6H12
product | Methyl 2-[[2-[4-(2,5-dimethoxyphenyl)piperazin-1-yl]ethyl]amino]pyrimidine-4-carboxylate | COC1=C(C=C(C=C1)OC)N1CCN(CC1)CCNC1=NC=CC(=N1)C(=O)OC | C20H27N5O4
